US04000275
6-(2,4-Dichlorobenzoyl)-9-ethoxybenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 9-ethoxybenzimidazo[2,1-b]-quinazolin-12(6H)one and 2,4-dichlorobenzoyl chloride.

reactant | 9-ethoxybenzimidazo[2,1-b]-quinazolin-12(6H)one | C(C)OC=1C=CC2=C(C1)N1C(=NC3=CC=CC=C3C1=O)N2 | C16H13N3O2
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | 6-(2,4-Dichlorobenzoyl)-9-ethoxybenzimidazo[2,1-b]-quinazolin-12(6H)one | ClC1=C(C(=O)N2C3=C(C=C(C=C3)OCC)N3C2=NC2=CC=CC=C2C3=O)C=CC(=C1)Cl | C23H15Cl2N3O3
